US06878721B1
(a) N-[2-Benzyloxy-5-[(2-ethyl-indan-2-ylamino)-acetyl]-phenyl]-methanesulfonamide
A mixture of 2-ethyl-indan-2-ylamine and N-(2-benzyloxy-5-bromoacetyl-phenyl)-methanesulfonamide is stirred in acetonitrile at room temperature for 20 hours. The product is isolated by filtration. ES+ MS m/e 479 (MH+)

reactant | 2-ethyl-indan-2-ylamine | C(C)C1(CC2=CC=CC=C2C1)N | C11H15N
reactant | N-(2-benzyloxy-5-bromoacetyl-phenyl)-methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CBr)=O)NS(=O)(=O)C | C16H16BrNO4S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-Benzyloxy-5-[(2-ethyl-indan-2-ylamino)-acetyl]-phenyl]-methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC1(CC2=CC=CC=C2C1)CC)=O)NS(=O)(=O)C | C27H30N2O4S
